US08071807B2
Following the procedures described for Example 21, {4-methyl-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester was reduced to {3-[4-amino-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methyl-phenyl}-acetic acid methyl ester and then treated with pivaloyl chloride to provide {3-[4-(2,2-dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methyl-phenyl}-acetic acid methyl ester. Hydrolysis of the ester provided the acid.

reactant | {4-methyl-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)C)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C19H18F3NO5S
reactant | {3-[4-amino-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methyl-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)C)OC1=C(C=C(C=C1)N)CSCC(F)(F)F)=O | C19H20F3NO3S
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | {3-[4-(2,2-dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methyl-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)C)OC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSCC(F)(F)F)=O | C24H28F3NO4S
